US09193693B2
Step 1. Methyl 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylate
Into a 50-mL sealed tube, was placed a solution of 3-(methoxymethyl)piperidine hydrochloride (170 mg, 1.03 mmol, 2.00 equiv) in dichloromethane (7 mL), and sodium methoxide (128 mg, 2.37 mmol, 5.00 equiv). The resulting solution was stirred for 3 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum and was added into a 8-mL sealed tube with methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.47 mmol, 1.00 equiv) and DMSO (4 mL). The mixture was stirred overnight at 100° C. Water was added to quench the reaction and the resulting solids were collected by filtration. The residue was purified by silica gel column chromatography with PE/EA (50:1). This resulted in 179.9 mg (88%) of methyl 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylate as a yellow solid.

reactant | 3-(methoxymethyl)piperidine hydrochloride | 1.03 mmol, 170 mg, 2.00 equiv | Cl.COCC1CNCCC1
reactant | sodium methoxide | 2.37 mmol, 128 mg, 5.00 equiv | C[O-].[Na+]
reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.47 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | Methyl 2-(4-fluorophenyl)-3-(3-(methoxymethyl)piperidin-1-yl)quinoxaline-6-carboxylate | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CC(CCC1)COC)C(=O)OC | C23H24FN3O3
